* H:\One Drive Unitn\OneDrive - studenti.unitn.it\FSAE\Schematics\BMS_HV\RelayDetection\Draft1.asc
R1 N002 N004 3300
R2 N004 0 100000
V1 N002 0 PULSE(0 3.3 0.1 0 0 0.1 0.2)
R3 N001 N003 330
V2 N001 0 12
Q1 N003 N004 0 0 2N2222
.model NPN NPN
.model PNP PNP
.lib G:\Users\grego\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1
.backanno
.end
